US04289787
N-n-Heptyl-N-methyl-4-(4-chlorophenyl)butylamine
A solution of 10 g. of N-n-heptyl-4-(4-chlorophenyl)butylamine, 9 ml. of ninety percent formic acid and 8.7 ml. of thirty-seven percent aqueous formaldehyde was heated at 100° C. until the evolution of carbon dioxide was observed. The reaction mixture was cooled and stored at room temperature for ten minutes. The reaction mixture was again heated to 100° C. and maintained at that temperature for twelve hours. After again cooling the mixture to room temperature, it was diluted with 40 ml. of 4 N hydrochloric acid, after which time the excess solvent was removed by evaporation under reduced pressure. The residual oil was diluted with water and then made alkaline by the addition of 5 N sodium hydroxide. The alkaline solution was extracted with diethyl ether. The ethereal extracts were combined and the product was extracted therefrom into 2 N sulfuric acid. The acidic extracts were combined and basified by the addition of 5 N sodium hydroxide. The alkaline solution was extracted with fresh diethyl ether, and the ethereal extracts were combined, washed with water and dried. Evaporation of the solvent provided 9.8 g. of N-n-heptyl-N-methyl-4-(4-chlorophenyl)butylamine. The amine so formed was dissolved in 25 ml. of ethyl acetate and added in one portion to a solution of 3.0 g. of oxalic acid in 150 ml. of ethyl acetate. The precipitate which formed was collected by filtration and air dried to provide 12.13 g. of N-n-heptyl-N-methyl-4-(4-chlorophenyl)butylammonium oxalate. M.P. 102°-104° C.

reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | N-n-heptyl-N-methyl-4-(4-chlorophenyl)butylammonium oxalate | C(C(=O)[O-])(=O)[O-].C(CCCCCC)[NH+](C)CCCCC1=CC=C(C=C1)Cl.C(CCCCCC)[NH+](C)CCCCC1=CC=C(C=C1)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-n-Heptyl-N-methyl-4-(4-chlorophenyl)butylamine | C(CCCCCC)N(C)CCCCC1=CC=C(C=C1)Cl | C18H30ClN
